US08106043B2
2-(2-Amino-4-nitrophenylthio)ethanol:
To a stirred solution of 2-chloro-5-nitroaniline (1.0 g, 5.79 mmol) in DMF (10 mL) was added potassium carbonate (1.60 g, 11.59 mmol) followed by 2-mercaptoethanol (0.813 mL, 11.59 mmol). The resulting mixture was then heated at 60° C. for 2 hours and then at room temperature overnight. The mixture was then diluted with ethyl acetate and washed with water (3×), 1N NaOH, and brine. The organic phase was dried, filtered, and concentrated, giving a red/orange solid (1.19 g, 96%). 1H NMR (DMSO-d6) δ 7.52 (s, 1H), 7.42-7.33 (m, 2H), 5.79 (s, 2H), 4.99 (t, J=5.4 Hz, 1H), 3.55 (q, J=6.2 Hz, 2H), 3.02 (t, J=6.6 Hz, 2H); ESI-MS (m/z, %): 215 (MH+, 23), 169 (100), 111 (63).

reactant | 2-chloro-5-nitroaniline | 5.79 mmol, 1.0 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | potassium carbonate | 11.59 mmol, 1.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptoethanol | 11.59 mmol, 0.813 mL | SCCO | C2H6OS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Amino-4-nitrophenylthio)ethanol | 1.19 g, 96% | NC1=C(C=CC(=C1)[N+](=O)[O-])SCCO | C8H10N2O3S
